US08030311B2
Step 25.4: [4-(2-Amino-4-bromo-phenylamino)-phenyl]-acetic acid ethyl ester
A suspension of [4-(4-bromo-2-nitro-phenylamino)-phenyl]-acetic acid ethyl ester (1.0 g, 2.64 mmol) and Raney Ni (˜0.300 g) in EtOH (20 mL) is stirred for 2.5 h at rt, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of Celite and concentrated. Silica gel column chromatography purification (Hexane/EtOAc, 7:3) of the crude product affords the title compound as a pale pink solid: ES-MS: 351.0 [M+2]+; single peak at tR=4.82 min (System 1); Rf=0.16 (Hexane/EtOAc, 7:3).

reactant | [4-(4-bromo-2-nitro-phenylamino)-phenyl]-acetic acid ethyl ester | 2.64 mmol, 1.0 g | C(C)OC(CC1=CC=C(C=C1)NC1=C(C=C(C=C1)Br)[N+](=O)[O-])=O | C16H15BrN2O4
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Ni | ˜0.300 g | [Ni] | Ni
product | [4-(2-Amino-4-bromo-phenylamino)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)NC1=C(C=C(C=C1)Br)N)=O | C16H17BrN2O2
